US04786646
As in Example 16, a solution of 195 g of [R-(R*,R*)]-alpha-hydroxy-N-[1-ethyl-4-(3-pyridinyl)butyl]benzeneacetamide in 1.1 L of 6N HCl was treated with 104 mL of conc. HCl and then was heated at reflux for 2 days. The crude amine, obtained by the normal work up, was distilled to give 109 g of (R)-alpha-ethyl-3-pyridinebutanamine, (bp 105° C./0.2 mm); [α]D25 -11.9° (c, 1.0, MeOH).

reactant | alpha-hydroxy-N-[1-ethyl-4-(3-pyridinyl)butyl]benzeneacetamide | OC(C(=O)NC(CCCC=1C=NC=CC1)CC)C1=CC=CC=C1 | C19H24N2O2
solvent | HCl | 6N, 1.1 L | Cl | ClH
solvent | HCl | 104 mL | Cl | ClH
product | (R)-alpha-ethyl-3-pyridinebutanamine | 109 g | C(C)[C@H](CCCC=1C=NC=CC1)N | C11H18N2
